US05416089
Part A: 9-(Trifluoromethyl)phenanthrene-1,10-dicarboxylic Anhydride
As described in example 14, the following compounds were prepared from dimethyl homophthalate and 2,2,2-trifluoroacetophenone:

reactant | dimethyl homophthalate | C(CC=1C(C(=O)OC)=CC=CC1)(=O)OC | C11H12O4
reactant | 2,2,2-trifluoroacetophenone | FC(C(=O)C1=CC=CC=C1)(F)F | C8H5F3O
product | 9-(Trifluoromethyl)phenanthrene-1,10-dicarboxylic Anhydride | FC(C=1C2=CC=CC=C2C=2C=CC=C3C2C1C(=O)OC3=O)(F)F | C17H7F3O3
